US05078907
Preparation of Dipropyl Terephthalate
This compound was prepared by the procedure described for diethyl terephthalate. Typical reagent levels were as follows: terephthaloyl chloride (81.2g, 0.40 mole), 1-propanol (48.1 g, 0.80 mole) and 100 ml of toluene. Yield was 97% and product was used without further purification.

reactant | diethyl terephthalate | C(C1=CC=C(C(=O)OCC)C=C1)(=O)OCC | C12H14O4
reactant | terephthaloyl chloride | 0.40 mole, 81.2g | C(C1=CC=C(C(=O)Cl)C=C1)(=O)Cl | C8H4Cl2O2
reactant | 1-propanol | 0.80 mole, 48.1 g | C(CC)O | C3H8O
reactant | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | Dipropyl Terephthalate | Yield was 97% | C(C1=CC=C(C(=O)OCCC)C=C1)(=O)OCCC | C14H18O4
